US03954764
17.6 g of 10-chloro-8-fluoro-10,11-dihydro-2-methyldibenzo[b,f]thiepin are heated for 20 hours under reflux conditions together with 27.3 g of 3-[2-(1-piperazinyl)-ethyl] -2-oxazolidinone in 10 ml of chloroform. After evaporation of the chloroform, the residue is mixed with ice, benzene and aqueous sodium hydroxide solution and again mixed well. The benzene phase is acidified with 6 N aqueous hydrochloric acid and maintained in an ice bath for 30 minutes. The precipitate, which is formed, is filtered, made alkaline with aqueous sodium hydroxide solution and taken up in benzene. The benzene phase is dried over sodium sulphate and evaporated, whereby 3-{2-[4-(8-fluoro-10,11-dihydro-2-methyl-dibenzo [b,f]thiepin-10-yl)-1-piperazinyl]-ethyl}-2-oxazolidinone is obtained, which is converted into the corresponding dihydrochloride by reaction with ethanolic hydrochloric acid. The dihydrochloride melts at 210°(dec;).

reactant | 10-chloro-8-fluoro-10,11-dihydro-2-methyldibenzo[b,f]thiepin | 17.6 g | ClC1CC2=C(SC3=C1C=C(C=C3)F)C=CC(=C2)C | C15H12ClFS
reactant | 3-[2-(1-piperazinyl)-ethyl] -2-oxazolidinone | 27.3 g | N1(CCNCC1)CCN1C(OCC1)=O | C9H17N3O2
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-{2-[4-(8-fluoro-10,11-dihydro-2-methyl-dibenzo [b,f]thiepin-10-yl)-1-piperazinyl]-ethyl}-2-oxazolidinone | FC=1C=CC2=C(C(CC3=C(S2)C=CC(=C3)C)N3CCN(CC3)CCN3C(OCC3)=O)C1 | C24H28FN3O2S
